US08877815B2
(S)-tert-butyl 1-cyano-2-(3′-methylbiphenyl-4-yl)ethylcarbamate (0.81 g, 2.408 mmol), sodium azide (0.344 g, 5.30 mmol) and zinc bromide (0.325 g, 1.445 mmol) were refluxed in i-propanol (15 mL) and H2O (30 mL) for 6 hours. The reaction mixture was cooled to room temperature, diluted with EtOAc, and washed with 1M HCl and brine. The organic layer was dried over Na2SO4 and concentrated under reduced pressure. The obtained residue was purified by silica gel flash column chromatography (EtOAc/heptane->10% MeOH in DCM/DCM) to give [(S)-2-(3′-methyl-biphenyl-4-yl)-1-(1H-tetrazol-5-yl)-ethyl]-carbamic acid tert-butyl ester. 1H NMR (400 MHz, DMSO-d6) δ 1.30 (s, 9H), 2.36 (s, 3H), 3.10-3.21 (m, 1H), 3.24-3.31 (m, 1H), 4.96-5.15 (m, 1H), 7.15 (d, J=7.33 Hz, 1H), 7.27-7.35 (m, 3H), 7.39-7.46 (m, 2H), 7.55 (d, J=8.08 Hz, 2H), 7.65 (d, J=8.34 Hz, 1H); MS: m/z (MH+) 380; Retention time=1.51 min. (condition A)

reactant | (S)-tert-butyl 1-cyano-2-(3′-methylbiphenyl-4-yl)ethylcarbamate | 2.408 mmol, 0.81 g | C(#N)[C@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)C)NC(OC(C)(C)C)=O | C21H24N2O2
reactant | sodium azide | 5.30 mmol, 0.344 g | [N-]=[N+]=[N-].[Na+]
reactant | H2O | 30 mL | O | H2O
solvent | i-propanol | 15 mL | C(C)(C)O | C3H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc bromide | 1.445 mmol, 0.325 g | [Br-].[Zn+2].[Br-]
product | [(S)-2-(3′-methyl-biphenyl-4-yl)-1-(1H-tetrazol-5-yl)-ethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC1=CC=C(C=C1)C1=CC(=CC=C1)C)C1=NN=NN1)=O | C21H25N5O2
